US06030952
j) Methyl 3-iodo-4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)allylsulphanyl]-benzoate
75% NaH (115 mg, 3.58 mmol) is added to a solution of methyl 3-Iodo-4-mercaptobenzoate (531 mg, 3.25 mmol) in DMF (20 ml) at 0° C. Stirring is continued for 20 min at ambient temperature, then a solution of 6-(1-bromomethylvinyl)-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphthalene (1 g, 3.25 mmol) in DMF (5 ml) is added dropwise. The mixture is stirred for 2 h at ambient temperature, and treated with an aqueous hydrochloric acid solution and ethyl ether. The organic phase is washed twice with water, dried over magnesium sulphate, and concentrated in vacuo at 40° C. in a rotary evaporator. The product is purified by flash chromatography on a silica column (CH2Cl2 50% heptane 50%).

reactant | NaH | 3.58 mmol, 115 mg | [H-].[Na+]
reactant | methyl 3-Iodo-4-mercaptobenzoate | 3.25 mmol, 531 mg | IC=1C=C(C(=O)OC)C=CC1S | C8H7IO2S
reactant | 6-(1-bromomethylvinyl)-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphthalene | 3.25 mmol, 1 g | BrCC(=C)C=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C17H23Br
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
product | Methyl 3-iodo-4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)allylsulphanyl]-benzoate | IC=1C=C(C(=O)OC)C=CC1SCC(=C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C25H29IO2S
